US08071993B2
In a reaction vessel, 3.17 g (14.2 mmol) of 6-bromo-2-naphthol, 5.00 g (15.6 mmol) of 2-(9,9-dimethyl-9H-fluoren-2-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborane, 96.0 ml of ethanol, 6.78 g (21.3 mmol) of sodium carbonate, 48.0 ml of water, and 30 mg (14.2×10−3 mmol) of Pd(PPh3)2Cl2 were charged. Then, the resultant mixture was stirred under reflux for 4 hours and cooled. Then, water was poured to the mixture, and the mixture was filtered to produce crude crystals. The resulting crude crystals were washed with water and heptane to produce 3.94 g of fluorenylnaphthol in a yield of 82.5%.

reactant | 6-bromo-2-naphthol | 14.2 mmol, 3.17 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | ethanol | 96.0 ml | C(C)O | C2H6O
reactant | sodium carbonate | 21.3 mmol, 6.78 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)2Cl2 | 14.2×10−3 mmol, 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
solvent | water | 48.0 ml | O | H2O
product | fluorenylnaphthol | 3.94 g, yield of 82.5% | C1(=CC=CC=2C3=CC=CC=C3CC12)C1=C(C2=CC=CC=C2C=C1)O | C23H16O
